US05965679
(c) Preparation of 4-Bromobenzil
Perchloric acid (250 mL), water (250 mL), ethylene glycol dimethyl ether (glyme) (500 mL), thallium (III) nitrate trihydrate (222.0 g, 0.5 mol) and 4-bromodeoxybenzoin (68.75 g, 0.25 mol) are charged to a 2-liter round bottom 3-necked flask equipped with a reflux condenser and a mechanical stirrer. The reaction mixture is heated under nitrogen to reflux for 6 hours. After cooling to ambient temperature, methylene chloride (500 mL) is added. The resulting bilayer is decanted off the precipitated Tl(I) salts formed. The layers are separated and the organic layer is washed with water, saturated aqueous NaHCO3 and brine, followed by recrystallization of the resulting solid from 2-propanol gives the title compound.

reactant | Perchloric acid | 250 mL | Cl(=O)(=O)(=O)O | ClHO4
reactant | water | 250 mL | O | H2O
reactant | thallium (III) nitrate trihydrate | 0.5 mol, 222.0 g | O.O.O.[N+](=O)([O-])[O-].[Tl+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
reactant | 4-bromodeoxybenzoin | 0.25 mol, 68.75 g | BrC1=CC=C(C=C1)C(=O)CC1=CC=CC=C1 | C14H11BrO
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
solvent | ethylene glycol dimethyl ether | 500 mL | COCCOC | C4H10O2
product | 4-Bromobenzil | BrC1=CC=C(C=C1)C(=O)C(=O)C1=CC=CC=C1 | C14H9BrO2
